US05958910
A mixture of 0.5 g of 4-(4-cyclohexyl-phenyl)-thiazol-2-ylamine hydrobromide with 0.31 g of p-toluenesulfonyl chloride was stirred for 3 hours with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic phase was dried with magnesium sulphate and concentrated. The residue was dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated in amorphous form upon neutralization with concentrated hydrochloric acid. After chromatography on 70 g of Kieselgel 60 with ethyl acetate/hexane (1:2) the product-containing fractions were concentrated. Recrystallization from 50% ethanol yielded 0.22 g of N-[4-(4-cyclohexyl-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as colorless crystals.

reactant | 4-(4-cyclohexyl-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.C1(CCCCC1)C1=CC=C(C=C1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.31 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-cyclohexyl-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.22 g | C1(CCCCC1)C1=CC=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C22H24N2O2S2
